US07109357B2
A solution of {1-[2-(2-ethoxy-5-oxo-tetrahydrofuran-3-yl carbamoyl)-pyrrolidine-1-carbonyl]-2,2-dimethylpropyl}carbamic acid benzyl ester (0.12 g, 0.24 mmol) in ethanol (5 mL) was treated with 10% palladium hydroxide on carbon (0.05 g), was stirred under 1 atm hydrogen pressure for 4 h, was filtered through Celite and was evaporated. The crude intermediate was dissolved in dichloromethane (5 mL), and was treated with 4-amino-3-chlorobenzoic acid (0.04 g, 0.26 mmol), EDC (0.06 g, 0.29 mmol) and diisopropylethylamine (0.13 mL, 0.71 mmol) and was stirred at room temperature under nitrogen for 20 h. The reaction was diluted with ethyl acetate, was washed with 10% potassium bisulfate, saturated sodium bicarbonate and brine, was dried (sodium sulfate) and was evaporated. Purification by flash chromatography (SiO2) eluted with 7:3 ethyl acetate hexanes provided 1-[2-(4-amino-3-chlorobenzoylamino)-3,3-dimethylbutyryl]pyrrolidine-2-carboxylic acid (2-ethoxy-5-oxo-tetrahydrofuran-3-yl)amide (0.08 g, 62% yield) as a colorless film. 1H-NMR (500 MHz, CDCl3) d 7.67 (d, J=2.0 Hz, 1H), 7.50 (m, 0.2H), 7.44 (dd, J=8.4, 2.0 Hz, 1.0H), 7.33 (d, J=8.0 Hz, 0.8H), 6.69 (d, J=8.4 Hz, 1H), 6.55 (d, J=9.2 Hz, 1H), 5.39 (d, J=5.2 Hz, 0.8H), 5.29 (s, 0.2H), 4.79 (d, J=9.4 Hz, 1H), 4.62 (m, 0.8H), 4.50 (m, 1.0H), 4.25 (m, 0.2H), 3.83 (m, 0.8H), 3.77 (m, 0.2H), 3.62 (m, 0.8H), 3.55 (m, 0.2H), 2.92 (m, 0.2H), 2.76 (dd, J=17.2, 8.4 Hz, 0.8H), 2.30 (m, 2H), 2.05 (m, 1H), 1.93 (m, 1.0H), 1.85 (m, 1H), 1.22 (t, J=7.1 Hz, 2.4H), 1.16 (t, J=7.1 Hz, 0.6H), 1.00 (s, 9H) ppm. 1H-NMR shows ˜8:2 syn:anti epimers. LC/MS (ES+): m/e=509.08 (M+H).

reactant | {1-[2-(2-ethoxy-5-oxo-tetrahydrofuran-3-yl carbamoyl)-pyrrolidine-1-carbonyl]-2,2-dimethylpropyl}carbamic acid benzyl ester | 0.24 mmol, 0.12 g | C(C1=CC=CC=C1)OC(NC(C(C)(C)C)C(=O)N1C(CCC1)C(NC1C(OC(C1)=O)OCC)=O)=O | C25H35N3O7
reactant | hydrogen | [H][H] | H2
reactant | 4-amino-3-chlorobenzoic acid | 0.26 mmol, 0.04 g | NC1=C(C=C(C(=O)O)C=C1)Cl | C7H6ClNO2
reactant | EDC | 0.29 mmol, 0.06 g
reactant | diisopropylethylamine | 0.71 mmol, 0.13 mL | C(C)(C)N(CC)C(C)C | C8H19N
solvent | ethanol | 5 mL | C(C)O | C2H6O
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
catalyst | palladium hydroxide on carbon | 0.05 g | [OH-].[OH-].[Pd+2]
product | 1-[2-(4-amino-3-chlorobenzoylamino)-3,3-dimethylbutyryl]pyrrolidine-2-carboxylic acid (2-ethoxy-5-oxo-tetrahydrofuran-3-yl)amide | 0.08 g, 62% yield | C(C)OC1OC(CC1NC(=O)C1N(CCC1)C(C(C(C)(C)C)NC(C1=CC(=C(C=C1)N)Cl)=O)=O)=O | C24H33ClN4O6
